multisource_5R_network - fault test
V1 A 0 DC 10
V2 B 0 DC 15
I1 0 C DC 5
R1 A 0 1991.500134
R2 A B 1987.634976
C3 A C 9.01e-06
R4 B C 1497.823911
R5 C 0 3933.747349
.op
.control
run
print v(A) v(B) v(C)
print @r1[i] @r2[i] @r4[i] @r5[i]
print @i1[i]
.endc
.end
